US07655643B2
Benzyl 3-bromo-N-(tert-butoxycarbonyl)-6-fluoro-L-phenylalaninate
6.0 g (13.3 mmol) of benzyl (2Z)-3-(5-bromo-2-fluorophenyl)-2-[(tert-butoxycarbonyl)amino]acrylate are dissolved in 100 ml of ethanol. Under an argon atmosphere, 40 mg (0.055 mmol) of (+)-1,2-bis((2S,5S)-2,5-diethylphospholano)benzene(cyclooctadiene)rhodium(I)trifluoromethanesulfonate are added, and argon is passed through the solution for 30 min. The mixture is then hydrogenated under a pressure of 3 bar of hydrogen for 4 days. The mixture is filtered through silica gel, which is carefully washed with ethanol. The filtrate is concentrated in vacuo, and the crude product is dried under high vacuum.

reactant | benzyl (2Z)-3-(5-bromo-2-fluorophenyl)-2-[(tert-butoxycarbonyl)amino]acrylate | 13.3 mmol, 6.0 g | BrC=1C=CC(=C(C1)\C=C(\C(=O)OCC1=CC=CC=C1)/NC(=O)OC(C)(C)C)F | C21H21BrFNO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Benzyl 3-bromo-N-(tert-butoxycarbonyl)-6-fluoro-L-phenylalaninate | BrC=1C=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C(=CC1)F | C21H23BrFNO4
